US05053072
A Grignard solution of 30.5 g of 2-ethoxybenzyl chloride and 6.1 g of magnesium shavings in 250 ml of diethyl ether is added dropwise at -60° C. to -70° C. to 50 ml of sulfur dioxide. Stirring is continued for 0.5 hour at -70° C., the mixture is allowed to come to room temperature, and the salt magnesium 2-ethoxybenzylsulfinate which has formed (47 g, melting point: 134°-139° C., decomposition) is filtered off with suction. The sulfinate salt is dissolved in 900 ml of water and 16.4 g of anhydrous sodium acetate. To this are added 22.7 g of hydroxylamine-O-sulfonic acid at room temperature with stirring. After the mixture has been stirred for 12 hours, the product is filtered off with suction and dried in vacuo. This gives 23.9 g of 2-ethoxybenzylsulfonamide of melting point: 92°-93° C.

reactant | 2-ethoxybenzyl chloride | 30.5 g | C(C)OC1=C(CCl)C=CC=C1 | C9H11ClO
reactant | magnesium | 6.1 g | [Mg] | Mg
reactant | sulfur dioxide | 50 ml | S(=O)=O | O2S
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | magnesium 2-ethoxybenzylsulfinate | C(C)OC1=C(CS(=O)[O-])C=CC=C1.[Mg+2].C(C)OC1=C(CS(=O)[O-])C=CC=C1 | InChI=1S/2C9H12O3S.Mg/c2*1-2-12-9-6-4-3-5-8(9)7-13(10)11;/h2*3-6H,2,7H2,1H3,(H,10,11);/q;;+2/p-2
